US07786114B2
To a solution of 0.56 g of [2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-carbaldehyde oxime in 30 cm3 of ethanol and 25 cm3 of water, at a temperature in the region of 20° C., is added 0.216 g of zinc and 12 cm3 of concentrated formic acid. A further 0.216 g of zinc is added and the mixture is stirred for a further 24 hours. The reaction medium is stirred at this same temperature for 24 hours. The reaction medium is filtered through Celite and the filtrate is concentrated under reduced pressure. The residue obtained is purified by flash-pack chromatography (SiO2, dichloromethane/methanol 95/05, then dichloromethane/methanol/triethylamine 100/10/1, then dichloromethane/methanol/28% aqueous ammonia 100/10/2 by volume as eluents, Ar). The residue obtained is again purified by flash-pack chromatography (SiO2, dichloromethane/methanol/28% aqueous ammonia 460/40/1.5 by volume as eluents, Ar). 0.03 g of [2-(5,6-dimethoxy1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]methylamine is obtained with the following characteristics:

reactant | 2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-carbaldehyde oxime | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC1=C(N=CC=C1C=NO)N2S(=O)(=O)C2=CC=C(C=C2)C)OC | C25H23N5O5S
reactant | formic acid | 12 cm3 | C(=O)O | CH2O2
solvent | ethanol | 30 cm3 | C(C)O | C2H6O
solvent | water | 25 cm3 | O | H2O
catalyst | zinc | 0.216 g | [Zn] | Zn
catalyst | zinc | 0.216 g | [Zn] | Zn
product | [2-(5,6-dimethoxy1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]methylamine | 0.03 g | O(C)C=1C=C2C(=CN(C2=CC1OC)C)C1=CC=2C(=NC=CC2CN)N1S(=O)(=O)C1=CC=C(C=C1)C | C26H26N4O4S
